US06638621B2
The amino acid D, L-leucine, in the amount of 0.132 grams, was dissolved in 2.514 grams of 1 M hydrochloric acid, resulting in the formation of leucine hydrochloride in solution. The solution was dried on a hot plate under flow of air, but was not allowed to dry to complete dryness: drying was stopped when the weight reached 0.1666 gram, which corresponds to one molar equivalent addition of HCl to the leucine. An amount of 0.130 grams of this compound were added to 0.879 grams of a nanostructured reverse bicontinuous cubic phase material prepared by mixing sunflower oil monoglycerides and water, centrifuging, and removing the excess water. An upper solution was prepared by mixing 1.0 grams of 1 M sodium hvdroxide with 3 grams of water. All water used was triply-distilled. The upper solution was overlaid on the cubic phase, the test tube sealed and sonicated, resulting in the formation of a milky-white dispersion of microparticles coated with leucine.

reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | hydrochloric acid | 1 M, 2.514 grams | Cl | ClH
product | leucine hydrochloride | Cl.N[C@@H](CC(C)C)C(=O)O | InChI=1S/C6H13NO2.ClH/c1-4(2)3-5(7)6(8)9;/h4-5H,3,7H2,1-2H3,(H,8,9);1H/t5-;/m0./s1
